US06133277
A mixture of 1-[2-hydroxy-3-methyl-4-(phenylmethoxy)phenyl]-ethanone (0.098 mol) and ethanedioic acid, diethyl ester (0.11 mol) in toluene (100 ml) was added dropwise to a mixture of sodium methoxide (0.22 mol) in toluene (150 ml). The reaction mixture was stirred and refluxed for 2 hours. The solvent was evaporated. The residue was added to a mixture of acetic acid (150 ml) and hydrochloric acid (50 ml). The reaction mixture was stirred and refluxed for 1 hour. The mixture was poured out onto ice. The resulting precipitate was filtered off and dried (vacuum; 70° C.), yielding 29 g (95.4%) of 8-methyl-4-oxo-7-(phenylmethoxy)-4H-1-benzopyran-2-carboxylic acid (interm. 9).

reactant | 1-[2-hydroxy-3-methyl-4-(phenylmethoxy)phenyl]-ethanone | 0.098 mol | OC1=C(C=CC(=C1C)OCC1=CC=CC=C1)C(C)=O | C16H16O3
reactant | ethanedioic acid, diethyl ester | 0.11 mol | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium methoxide | 0.22 mol | C[O-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 8-methyl-4-oxo-7-(phenylmethoxy)-4H-1-benzopyran-2-carboxylic acid | 29 g, 95.4% | CC1=C(C=CC=2C(C=C(OC21)C(=O)O)=O)OCC2=CC=CC=C2 | C18H14O5
